US05475072
Preparation of 1,3-Dimethyl-3-(t-butylperoxy)butyl Hydrogen Maleate (PM-8)
A 100 mL 3-neck flask equipped with a magnetic stirrer, a thermometer and a condenser was charged with 21.1 g (0.10 mole) of 90.7% 1,3-dimethyl-3-(t-butylperoxy)butanol, 12.5 g (0.125 mole) of maleic anhydride and 6 drops of aqueous 50% sulfuric acid solution. The stirred reaction mixture was then heated to and held at 55°-65° C. for about 6 hours after which the reaction mixture was cooled to room temperature and poured into 100 mL of water. The organic layer that resulted was extracted with 200 mL of methyl t-butyl ether and the methyl t-butyl ether solution was washed with 100 mL of water at 30°-35° C. The resulting solution was dried over about 10% by weight of anhydrous MgSO4. The spent desiccant was separated by filtration and the solvent was removed in vacuo leaving 12.2 g (42% of theory, uncorrected) of a liquid product. An infrared spectrum of the product showed a small OH band, an anhydride carbonyl band at about 1785 cm-1, a strong ester carbonyl band at ca 1740 cm-1 and a carbon-carbon double bond band at ca. 1650 cm-1. The product was then poured into 100 mL of aqueous 3% NaOH solution, stirred for 5 minutes at 20°-25° C. in order to prepare the sodium salt of the title product and to hydrolyze the excess maleic anhydride. The salt solution was extracted twice with 100 mL portions of pentane in order to remove neutral impurities. The salt solution was then brought to a pH of 2-3 with dilute hydrochloric acid solution and the resulting mixture was extracted twice with 100 mL portions of methyl t-butyl ether and the methyl t-butyl ether extracts were combined. The resulting solution was dried over about 10% by weight of anhydrous MgSO4 the spent desiccant was separated by filtration and the solvent was removed in vacuo leaving 11.2 g (39% of theory, uncorrected) of a light yellow liquid product. A liquid chromatography scan showed a major peak which indicated ca. 96% product purity according to area percent. The liquid chromatography scan of the product also showed that it contained a minor amount of 1,3-dimethyl-3-(t-butylperoxy)butanol, one of the reactants. Based on the liquid chromatographic purity the corrected yield for the product was ca. 37%. Analysis of the product by differential scanning calorimetry (DSC) showed a major peroxide decomposition exotherm at about 170° C.

reactant | 1,3-dimethyl-3-(t-butylperoxy)butanol | 0.10 mole, 21.1 g | CC(CC(C)(OOC(C)(C)C)C)O | C10H22O3
reactant | maleic anhydride | 0.125 mole, 12.5 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | carbon carbon | [C].[C] | 2C
reactant | NaOH | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | water | 100 mL | O | H2O
product | 1,3-Dimethyl-3-(t-butylperoxy)butyl Hydrogen Maleate | C(\C=C/C(=O)O)(=O)OC(CC(C)(OOC(C)(C)C)C)C | C14H24O6
